US08207164B2
h) ((R)-5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
[(R)-5-(5-Amino-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (35 g, 97.4 mmol), 5-cyano-pyridine-2-carboxylic acid (15.87 g, 107.14 mmol) and HOBt hydrate (22.35 g, 146.1 mmol) were dissolved in 185 ml DMF and stirred with ice cooling. When the temperature had reached 0-5° C. EDC (22.33 ml, 126.62 mmol) was added dropwise. The mixture was stirred for 2 h. The ice bath was taken away and stirring was continued for 2 h. The mixture was taken up in EtOAc and water. The phases were separated and the organic phase was washed with 5% aqueous NaHCO3 and brine. The organic phase was dried with MgSO4.H2O and evaporated to provide a beige solid. Crystallisation from EtOAc/hexane gave the title compound as colorless crystals. Yield 44.47 g.

reactant | [(R)-5-(5-Amino-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 97.4 mmol, 35 g | C(C)(C)(C)OC(NC=1COC[C@@](N1)(C(F)F)C1=C(C=CC(=C1)N)F)=O | C16H20F3N3O3
reactant | 5-cyano-pyridine-2-carboxylic acid | 107.14 mmol, 15.87 g | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
reactant | HOBt hydrate | 146.1 mmol, 22.35 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 126.62 mmol, 22.33 ml
solvent | DMF | 185 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | ((R)-5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COC[C@@](N1)(C(F)F)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)C#N)F)=O | C23H22F3N5O4
